US08211820B2
Preparation of 2-methoxy-2′-methylbiphenyl
A THF solution of ethylmagnesium bromide (0.167 mL, 1.08 M, 0.18 mmol) was added to FeF3.3H2O (5.01 mg, 0.03 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride (38.4 mg, 0.09 mmol) at 0° C. under argon atmosphere. The following process was also performed under argon atmosphere. THF (0.10 mL) was added to rinse the internal wall of the reaction vessel. After stirring for five hours at room temperature, 1-methoxy-2-chlorobenzene (142.6 mg, 1.0 mmol) and a THF solution (1.50 mL, 0.80 M, 1.2 mmol) of o-tolylmagnesium bromide was added to the mixture at 0° C., and the mixture was reacted for 24 hours at 80° C. After cooled to the ambient temperature, 2.0 mL of saturated sodium potassium tartrate aqueous solution was added to the reaction mixture. The water layer was extracted five times using Et2O. The total organic extract was filtrated by Florisil pad (100-200 mesh, Nacalai Tesque, Inc.). After removing the solvent under reduced pressure, the crude product was purified by silica gel chromatography (toluene=15, 30 and 50% in hexane), thereby obtaining the above compound, which was a colorless liquid (0.178 g, yield=90%, purity=>99% (GC analysis)).

reactant | ethylmagnesium bromide | 0.18 mmol, 1.08 M, 0.167 mL | C(C)[Mg]Br
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride | 0.09 mmol, 38.4 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | 1-methoxy-2-chlorobenzene | 1.0 mmol, 142.6 mg | COC1=C(C=CC=C1)Cl | C7H7ClO
reactant | o-tolylmagnesium bromide | C1(=C(C=CC=C1)[Mg]Br)C
reactant | sodium potassium tartrate | 2.0 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 0.10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.2 mmol, 0.80 M, 1.50 mL | C1CCOC1 | C4H8O
product | 2-methoxy-2′-methylbiphenyl | yield=90% | COC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14O
